US07989461B2
Preparation of 6-(3-(3-isopropoxyphenylamino)-6-methyl-1H-indazol-7-yl)-N-methylquinazolin-2-amine
A mixture of 2-fluoro-N-(3-isopropoxyphenyl)-4-methyl-3-(2-(methylamino)quinazolin-6-yl)benzothioamide (54 mg, 117 μmol) and hydrazine hydrate (11 μL, 234 μmol) in n-butanol (6 mL) was heated in a microwave reactor at 150° C. for 33 min. Solvent was removed and the residue was purified by preparative TLC (50% EtOAc/hexane) to give the title compound. MS (M+H)+ 439.

reactant | 2-fluoro-N-(3-isopropoxyphenyl)-4-methyl-3-(2-(methylamino)quinazolin-6-yl)benzothioamide | 117 μmol, 54 mg | FC1=C(C(NC2=CC(=CC=C2)OC(C)C)=S)C=CC(=C1C=1C=C2C=NC(=NC2=CC1)NC)C | C26H25FN4OS
reactant | hydrazine hydrate | 234 μmol, 11 μL | O.NN
solvent | n-butanol | 6 mL | C(CCC)O | C4H10O
product | 6-(3-(3-isopropoxyphenylamino)-6-methyl-1H-indazol-7-yl)-N-methylquinazolin-2-amine | C(C)(C)OC=1C=C(C=CC1)NC1=NNC2=C(C(=CC=C12)C)C=1C=C2C=NC(=NC2=CC1)NC | C26H26N6O
